US08372864B2
2.45 g of 2-(2-bromophenyl)-N-(2-ethoxyethyl)ethanamine and 1.4 cm3 of triethylamine in solution in 22 cm3 of anhydrous tetrahydrofuran are stirred under an inert atmosphere at 0° C. 1.3 cm3 of methyl chloroformate in solution in 4 cm3 of tetrahydrofuran are poured into the reaction mixture. This mixture is then stirred for 20 h at a temperature close to 20° C. 50 cm3 of a saturated aqueous solution of ammonium chloride and 50 cm3 of ethyl acetate are added. After decanting, the organic phase is washed twice with 20 cm3 of water then 20 cm3 of a saturated aqueous solution of sodium chloride, it is dried over magnesium sulfate and filtered through a bed of silica of 30 g. The latter is washed twice with 75 cm3 of ethyl acetate. The filtrate is concentrated using a rotary evaporator under reduced pressure (5 kPa). 2.97 g of methyl[2-(2-bromophenyl)ethyl](2-ethoxyethyl)carbamate are obtained in the form of a yellow oil.

reactant | 2-(2-bromophenyl)-N-(2-ethoxyethyl)ethanamine | 2.45 g | BrC1=C(C=CC=C1)CCNCCOCC | C12H18BrNO
reactant | triethylamine | 1.4 cm3 | C(C)N(CC)CC | C6H15N
reactant | methyl chloroformate | 1.3 cm3 | ClC(=O)OC | C2H3ClO2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 22 cm3 | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 4 cm3 | O1CCCC1 | C4H8O
solvent | ethyl acetate | 50 cm3 | C(C)(=O)OCC | C4H8O2
product | methyl[2-(2-bromophenyl)ethyl](2-ethoxyethyl)carbamate | 2.97 g | COC(N(CCOCC)CCC1=C(C=CC=C1)Br)=O | C14H20BrNO3
